US05438052
Diethyl azodicarboxylate (16.68 g) (86 mmol) are dissolved in 1200 ml of absolute tetrahydrofuran. Thereto there is added a mixture consisting of 22.6 g (86 mmol) of triphenylphosphine, 14.1 g (86 mmol) of N-hydroxyphthalimide and 20.0 g (86 mmol) of 5-(benzyloxy)-2-(hydroxymethyl)-4H-pyran-4-one (known from J. Med. Chem. 17, 1, 1974). After stirring at room temperature for 20 hours the mixture is filtered and the filter material is rinsed with ethanol. The filtrate and rinse solution are combined and concentrated, and the residue is crystallized using ethanol. After repeated recrystallization from ethanol there are obtained 23.5 g of N-[[5-(benzyloxy)-4-oxo-4H-pyran-2-yl]methoxy]phthalimide as white crystals of m.p. 172° C.

reactant | Diethyl azodicarboxylate | 86 mmol, 16.68 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 86 mmol, 22.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-hydroxyphthalimide | 86 mmol, 14.1 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 5-(benzyloxy)-2-(hydroxymethyl)-4H-pyran-4-one | 86 mmol, 20.0 g | C(C1=CC=CC=C1)OC=1C(C=C(OC1)CO)=O | C13H12O4
solvent | tetrahydrofuran | 1200 ml | O1CCCC1 | C4H8O
product | N-[[5-(benzyloxy)-4-oxo-4H-pyran-2-yl]methoxy]phthalimide | 23.5 g | C(C1=CC=CC=C1)OC=1C(C=C(OC1)CON1C(C=2C(C1=O)=CC=CC2)=O)=O | C21H15NO6
